* KeysDock custom passive / PCB trace models for ngspice
* Author: generated by Kimi Code CLI for KeysDock hardware audit

* 0402 capacitor with typical ESL/ESR
.SUBCKT C0402 n1 n2
C1 n1 n3 1n
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402

* 0402 capacitor 100nF
.SUBCKT C0402_100N n1 n2
C1 n1 n3 100n
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402_100N

* 0402 capacitor 1uF
.SUBCKT C0402_1U n1 n2
C1 n1 n3 1u
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402_1U

* 0402 capacitor 4.7uF
.SUBCKT C0402_4U7 n1 n2
C1 n1 n3 4.7u
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402_4U7

* 0402 capacitor 10uF
.SUBCKT C0402_10U n1 n2
C1 n1 n3 10u
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402_10U

* 0402 capacitor 22uF
.SUBCKT C0402_22U n1 n2
C1 n1 n3 22u
L1 n3 n2 0.4n
R1 n1 n3 0.05
.ENDS C0402_22U

* 1206 bulk capacitor 100uF
.SUBCKT C1206_100U n1 n2
C1 n1 n3 100u
L1 n3 n2 1.0n
R1 n1 n3 0.03
.ENDS C1206_100U

* 2.2uH inductor for TPS62142 (FTC252012S2R2MBCA ~ 0.1Ω DCR)
.SUBCKT L_2U2_BUCK n1 n2
L1 n1 n3 2.2u
R1 n3 n2 0.1
.ENDS L_2U2_BUCK

* 0402 resistor
.SUBCKT R0402 n1 n2 PARAMS: R=1k
R1 n1 n2 {R}
.ENDS R0402

* Li-ion battery model: voltage source + internal resistance
.SUBCKT BATTERY n_plus n_minus PARAMS: V=3.7 R=0.1
V1 n_plus n_int DC {V}
R1 n_int n_minus {R}
.ENDS BATTERY

* USB 5V source with cable resistance
.SUBCKT USB5V n_plus n_minus
V1 n_plus n_int DC 5.0
R1 n_int n_minus 0.1
.ENDS USB5V

* PCB trace (1 inch, 1 oz copper, ~10nH, 15mΩ)
.SUBCKT PCB_TRACE n1 n2
L1 n1 n3 10n
R1 n3 n2 15m
.ENDS PCB_TRACE
